US06815447B2
6-Nitro-4-chloro-2-(3-fluoro-phenyl)-quinoline:
6-Nitro-2-(3-fluoro-phenyl)-quinolin-4-ol, 5.2 g (16.3 mmoles), was placed in a 500 mL three-neck round-bottom flask equipped with a condenser, magnetic stirrer and nitrogen inlet. To this was added 15.2 mL (25.0 g, 163 mmoles, 10 equiv.) of phosphorus oxychloride with stirring. The mixture was heated to 110° C. for 4 hr. At the end of this time the reaction was cooled to room temperature and water was cautiously added dropwise until all of the POCl3 was consumed. The product crystallised from the water and solids were collected by filtration. The solids were washed with water, placed in a 250 mL Erlenmeyer and triturated with water. After collection by filtration, washing with water, and drying in a vacuum oven, 4.6 g (84%) of the product was obtained.

reactant | 6-Nitro-2-(3-fluoro-phenyl)-quinolin-4-ol | [N+](=O)([O-])C=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)O | C15H9FN2O3
reactant | phosphorus oxychloride | 163 mmoles, 15.2 mL, 25.0 g, 10 equiv. | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 6-Nitro-4-chloro-2-(3-fluoro-phenyl)-quinoline | 4.6 g, 84% | [N+](=O)([O-])C=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)Cl | C15H8ClFN2O2
